US07317027B2
(v) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid methyl ester
To a solution of 1.2 g 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid methyl ester in 20 mL DMF, 91 mg sodium hydride (95%) were added at 0° C. Then the reaction mixture was warmed to RT and stirred for 30 min. After cooling again to 0° C., 967 mg 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole [prepared by adopting a procedure described by Ewing, William R.; Becker, Michael R.; Choi-Sledeski, Yong Mi; Pauls, Heinz W.; He, Wei; Condon, Stephen M.; Davis, Roderick S.; Hanney, Barbara A.; Spada, Alfred P.; Burns, Christopher J.; Jiang, John Z.; Li, Aiwen; Myers, Michael R.; Lau, Wan F.; Poli, Gregory B; PCT Int. Appl. (2001), 460 pp. WO 0107436 A2] were added and the mixture was stirred for 2 h at RT. Then 50 mL of water were added and the precipitate was collected by filtration to yield 630 mg pure product. The filtrate was concentrated under reduced pressure and the residue purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). After lyophilization further 371 mg of product were obtained as a solid.

reactant | 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid methyl ester | 1.2 g | COC(=O)C=1C=C2C(=NC1)NC(=C2)C(NC2CCN(CC2)C(C)C)=O | C18H24N4O3
reactant | sodium hydride | 91 mg | [H-].[Na+]
reactant | 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 967 mg | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
reactant | water | 50 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid methyl ester | 630 mg | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(NC2CCN(CC2)C(C)C)=O)CC2=NOC(=C2)C=2SC(=CC2)Cl | C26H28ClN5O4S
